US04271163
3.0 g (14.9 millimoles) of 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one, 2.0 g (17.5 millimoles) of difluoroacetyl chloride and 100 ml of absolute tetrahydrofuran are kept first for 3 hours at 0°-5° C. and then for 20 hours at room temperature. The product is filtered off at 10° C., washed with water and recrystallized from methanol. 2.7 g (63% of theory) of 2-(p-difluoroacetylaminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one hemihydrate are obtained as colorless crystals, of melting point 223°-224° C.

reactant | 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 14.9 millimoles, 3.0 g | NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C11H11N3O
reactant | difluoroacetyl chloride | 17.5 millimoles, 2.0 g | FC(C(=O)Cl)F | C2HClF2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(p-difluoroacetylaminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one hemihydrate | 2.7 g, 63% | O.FC(C(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O)F.FC(C(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O)F | InChI=1S/2C13H11F2N3O2.H2O/c2*14-11(15)13(20)16-7-3-1-6(2-4-7)10-8-5-9(8)12(19)18-17-10;/h2*1-4,8-9,11H,5H2,(H,16,20)(H,18,19);1H2
